US07169780B2
Step 9: 2-(1-amino-1-methylethyl)-N-(4-fluorobenzyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide.
A methanolic solution of Benzyl 1-(4-{[(4-fluorobenzyl)amino]carbonyl}-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidin-2-yl)-1-methylethylcarbamate was stirred over night under a hydrogen atmosphere in the presence of catalytic 10% Pd/C. Catalyst was then filtered off through celite, and the filtrate was concentrated. Product was obtained after trituration with ethyl ether.

reactant | Benzyl 1-(4-{[(4-fluorobenzyl)amino]carbonyl}-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidin-2-yl)-1-methylethylcarbamate | FC1=CC=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C(C)(C)NC(OCC2=CC=CC=C2)=O)C=C1 | C24H25FN4O5
catalyst | Pd/C | [Pd] | Pd
product | 2-(1-amino-1-methylethyl)-N-(4-fluorobenzyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide | NC(C)(C)C=1N(C(C(=C(N1)C(=O)NCC1=CC=C(C=C1)F)O)=O)C | C16H19FN4O3
